US07897792B2
3-(2-Fluoro-3-nitrobenzyl)-7-hydroxy-4-methyl-2-oxo-2H-1-benzopyran
Concentrated sulfuric acid (21.5 mL) was added at 0° C. to a mixture of resorcinol (14.8 g, 135 mmol) and 2-(2-fluoro-3-nitrobenzyl)-3-oxobutanoic acid ethyl ester (38.2 g, 135 mmol), and the reaction mixture was stirred at room temperature overnight. The reaction mixture was then poured into water, and the solid was filtered off. It was washed with water and methanol to yield the title compound (28.3 g, 64%) as a pale yellow powder.

reactant | sulfuric acid | 21.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | resorcinol | 135 mmol, 14.8 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2-(2-fluoro-3-nitrobenzyl)-3-oxobutanoic acid ethyl ester | 135 mmol, 38.2 g | C(C)OC(C(C(C)=O)CC1=C(C(=CC=C1)[N+](=O)[O-])F)=O | C13H14FNO5
solvent | water | O | H2O
product | 3-(2-Fluoro-3-nitrobenzyl)-7-hydroxy-4-methyl-2-oxo-2H-1-benzopyran | 28.3 g, 64% | FC1=C(CC=2C(OC3=C(C2C)C=CC(=C3)O)=O)C=CC=C1[N+](=O)[O-] | C17H12FNO5
